US07030085B2
Thus cultivated, 10 liters of the culture was controlled to have a pH of 7.0, to which was added 40 liters of acetone. The resulting extract was well stirred, and filtered, and acetone was removed from it under reduced pressure. 12 liters of ethyl acetate was added to it, and well stirred, and the ethyl acetate layer was concentrated under reduced pressure. Then, ethyl acetate was removed from it. The residue was subjected to column chromatography with Sephadex LH-20 (by Amersham Pharmacia Biotec, φ30 ×350 mm), and developed with N-hexane/dichloromethane/methanol (4/5/1) to obtain an active fraction. The active fraction was subjected to silica gel thin-layer chromatography (with Kieselgel 60F254, 20 mm×20 mm, by Merck), developed with chloroformlmethanol (15/1), and the active fraction was scraped out. The active fraction was then subjected to ODS column chromatography (φ20×250 mm, Develosilpack, by Nomura Chemical), and an active substance to give a peak was fractionated with an elution solvent of aqueous 70% methanol solution, at a flow rate of 9.0 ml/min and a detection wavelength of 210 nm. From it, the compounds of the invention, QN3323-A (5.0 mg) and QN3323-B (1.5 mg) were isolated. Similarly, known compounds, thiocillin I (11 mg) and thiocillin II (5.3 mg) were isolated.

reactant | acetone | 40 liters | CC(=O)C | C3H6O
reactant | thiocillin I | 11 mg | C/C=C/1\C2=NC(=CS2)C(=O)NC(C3=NC(=CS3)C(=O)NC(C4=NC(=CS4)C5=C(C=CC(=N5)C6=NC(=CS6)C7=NC(=CS7)C(=O)N/C(=C/C)/C(=O)NCC(C)O)C8=NC(=CS8)C(=O)NC(C(=O)N1)C(C)O)C(C)O)C(C)(C)O | C48H49N13O10S6
solvent | methanol | CO | CH4O
product | thiocillin II | 5.3 mg | C/C=C/1\C2=NC(=CS2)C(=O)NC(C3=NC(=CS3)C(=O)NC(C4=NC(=CS4)C5=C(C=CC(=N5)C6=NC(=CS6)C7=NC(=CS7)C(=O)N/C(=C/C)/C(=O)NCC(C)O)C8=NC(=CS8)C(=O)NC(C(=O)N1)C(C)O)C(C)OC)C(C)(C)O | C49H51N13O10S6
